US06310211B1
5-Chloro-8-hydroxyquinoline-7-carboxylic Acid (Formula A-2 wherein R1 is —Cl and R2 is —H) Refer to Chart A
5Chloro-8-hydroxyquinoline (5.00 g) and potassium carbonate (11.54 g) are mixed together in a stainless steel bomb and heated to 170° C. under 800 p.s.i. CO2 for 7 days. The reaction is cooled and the resulting solid is dissolved in 800 mL water. The insoluble material is filtered and partitioned between 800 mL water and 400 mL EtOAc in a separatory funnel. The aqueous layer is washed with EtOAc (3×400 mL). The aqueous layer is then acidified to pH 4.5 with conc. HCl. The resulting solid is collected, washed with water and dried. The crude product is triturated with i-PrOH and dried to yield 1.481 g of the title product as a brown solid.

reactant | 5Chloro-8-hydroxyquinoline | 5.00 g | ClC1=C2C=CC=NC2=C(C=C1)O | C9H6ClNO
reactant | potassium carbonate | 11.54 g | C([O-])([O-])=O.[K+].[K+]
reactant | CO2 | C(=O)=O | CO2
solvent | water | 800 mL | O | H2O
product | 5-Chloro-8-hydroxyquinoline-7-carboxylic Acid | 1.481 g | ClC1=C2C=CC=NC2=C(C(=C1)C(=O)O)O | C10H6ClNO3
